US07429565B2
(2-{[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-methanesulfonyl-amino}-ethyl)-phosphonic acid
A solution of [2-(methanesulfonyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester (18 mg, 0.029 mmol) in acetonitrile (0.5 mL) was stirred with TMSBr (38 μL, 0.29 mmol) and 2,6-lutidine (34 μL, 0.29 mmol) for 2 hours at room temperature. The reaction was worked up by addition of EtOAc and aqueous 1N HCl. The organic layer was washed with brine and the solvent was removed in vacuo. The residue was suspended in a solution of 10% TFA-CH2Cl2 for 10 minutes before it was dried to provide 9.9 mg of the desired product (73%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 1.76 (s, 3H), 1.76-1.88 (m, 2H), 2.10 (s, 3H), 2.87 (s, 3H), 3.24-3.35 (m, 2H), 3.39 (d, 2H, J=7 Hz), 3.65 (s, 2H), 3.75 (s, 3H), 5.22 (s, 2H), 5.41-5.48 (m, 1H) ppm; 31P (121.4 MHz, DMSO-d6) δ 21.4 ppm; MS (m/z) 464.1 [M+H]+.

reactant | [2-(methanesulfonyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester | 0.029 mmol, 18 mg | C(C)OP(OCC)(=O)CCN(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)S(=O)(=O)C | C27H46NO9PSSi
reactant | TMSBr | 0.29 mmol, 38 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 0.29 mmol, 34 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | HCl | 1N | Cl | ClH
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-{[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-methanesulfonyl-amino}-ethyl)-phosphonic acid | 9.9 mg, 73% | OC1=C2C(OCC2=C(C(=C1CC=C(CN(CCP(O)(O)=O)S(=O)(=O)C)C)OC)C)=O | C18H26NO9PS
